US06579875B1
A solution of potassium bis(trimethylsilyl)amide in toluene (16.8 ml, 0.5M, 8.4 mmol) was added to a stirred solution of (2-methyl-2H-1,2,4-triazol-3-yl)methanol (0.95 g, 8.4 mmol) in anhydrous THF (30 ml) at room temperature under nitrogen. After 20 min the suspension was cooled to 0° C. and a suspension of 7-bromo-6-chloro-3-(2-fluorophenyl)-1,2,4-triazolo[4,3-b]pyridazine (2.28 g, 6.96 mmol) in anhydrous THF (100 ml) was added dropwise. The mixture was stirred for 3 h at 0° C. then poured into ice-water (400 ml), diluted with saturated aqueous ammonium chloride (100 ml) and extracted with dichloromethane-methanol (9:1, 3×100 ml). The extracts were dried (Na2SO4), filtered and concentrated. Flash column chromatography on silica gel, eluting with 3% methanol-dichloromethane, gave 7-bromo-3-(2-fluorophenyl)-6-(2-methyl-2H-1,2,4-triazol-3-ylmethoxy)-1,2,4-triazolo[4,3-b]pyridazine (1.45 g, 52%) as a yellow solid; 1H NMR (360 MHz, CDCl3) δ3.95 (3H, s), 5.54 (2H, s), 7.28 (1H, dd, J=10 and 10 Hz), 7.37 (1H, ddd, J=8, 8 and 1 Hz), 7.57-7.63 (1H, m), 7.86 (1H, ddd, J=8, 8 and 2 Hz), 7.90 (1H, s), 8.41 (1H, s); MS (ES+) m/e 404/406 [MH]+.

reactant | potassium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | toluene | 8.4 mmol, 0.5M, 16.8 ml | C1(=CC=CC=C1)C | C7H8
reactant | (2-methyl-2H-1,2,4-triazol-3-yl)methanol | 8.4 mmol, 0.95 g | CN1N=CN=C1CO | C4H7N3O
reactant | 7-bromo-6-chloro-3-(2-fluorophenyl)-1,2,4-triazolo[4,3-b]pyridazine | 6.96 mmol, 2.28 g | BrC1=CC=2N(N=C1Cl)C(=NN2)C2=C(C=CC=C2)F | C11H5BrClFN4
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | ammonium chloride | 100 ml | [Cl-].[NH4+]
product | 7-bromo-3-(2-fluorophenyl)-6-(2-methyl-2H-1,2,4-triazol-3-ylmethoxy)-1,2,4-triazolo[4,3-b]pyridazine | 1.45 g, 52% | BrC1=CC=2N(N=C1OCC=1N(N=CN1)C)C(=NN2)C2=C(C=CC=C2)F | C15H11BrFN7O
